US06121258
Ethyl isocyanoacetate (2.19 g, 19.4 mmol) and allyl 2-bromo-2-methylpropionate (4.40 g, 21.3 mmol) are dissolved in diethyl ether (50 mL) and methyl sulfoxide (50 mL) with stirring. In a separate flask sodium hydride (775 mg of 60% dispersion in mineral oil) is rinsed with hexane and suspended in diethyl ether (10 mL). The suspension is added dropwise to the stirring solution and an additional methyl sulfoxide (50 mL) is added to the mixture. The reaction is stirred for 2 hours at room temperature. The mixture is diluted with diethyl ether (250 mL) and washed several times with water. The organic phase is dried over sodium sulfate and evaporated to give 3-isocyano-2,2-dimethyl-succinic acid 1-allyl ester 4-ethyl ester.

reactant | Ethyl isocyanoacetate | 19.4 mmol, 2.19 g | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | allyl 2-bromo-2-methylpropionate | 21.3 mmol, 4.40 g | BrC(C(=O)OCC=C)(C)C | C7H11BrO2
reactant | methyl sulfoxide | 50 mL | CS(=O)C | C2H6OS
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 3-isocyano-2,2-dimethyl-succinic acid 1-allyl ester 4-ethyl ester | C(C)OC(C(C(C(=O)OCC=C)(C)C)[N+]#[C-])=O | C12H17NO4
